US04603220
A heated autoclave of Hastelloy C, equipped with stirrer, gas introduction tube, temperature sensor, pressure gauge and a pressurized reflux condenser was charged with 300 g of toluene, 100 g of acetic acid, 3 g of cobalt acetate tetrahydrate (Co(OAc)2.4H2O) and 1.5 g of sodium bromide. Through this mixture air was passed at 125°-130° C. and a pressure of 25 bar, with stirring, with a constant exhaust of 3 1/min. The reaction was observed by continuous measurement of the oxygen content in the exhaust gas. The end of the reaction 220 minutes later was manifested by the fact that the oxygen in the exhaust gas returned to the initial level of 21%. Then the passage of air was stopped, and, after the addition of 450 g of 50% acetic acid, the mixture was cooled to 23° C. with stirring. The crystalline target product was separated from the reaction mixture using a pressure filter, washed with 450 g of 50% acetic acid, and dried. 325.5 g of pure white benzoic acid was obtained.

reactant | toluene | 300 g | C1(=CC=CC=C1)C | C7H8
reactant | oxygen | O=O | O2
reactant | acetic acid | 450 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 g | C(C)(=O)O | C2H4O2
catalyst | Hastelloy C | [Cr].[Co]
catalyst | cobalt acetate tetrahydrate | 3 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | sodium bromide | 1.5 g | [Br-].[Na+]
product | benzoic acid | 325.5 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
